US08431575B2
To a solution of (±)-cis-4-acetoxymethyl-3-hydroxy-piperidine-1-carboxylic acid tert-butyl ester (45.0 mmol, 12.3 g) in anhydrous DCM (100 mL) at room temperature was added N,N-diisopropylethyl amine (180 mmol, 31.4 mL). The reaction mixture was cooled to 0° C. using an ice bath. To this was added chloromethylmethyl ether (135 mmol, 11.4 mL) dropwise over 15 minutes. After completion of addition, the reaction was stirred for 12 hours while coming to room temperature. All volatiles were removed under reduced pressure. The residue was dissolved in ethyl acetate (250 mL) and washed with water (3×50 mL) and brine (50 mL). The organic layer was dried (Na2SO4), filtered and concentrated under reduced pressure. The residue was purified on 110 g SiO2 cartridge using ethyl acetate/hexanes gradient to give (±)-cis-4-acetoxymethyl-3-methoxymethoxy-piperidine-1-carboxylic acid tert-butyl ester (13.3 g).

reactant | (±)-cis-4-acetoxymethyl-3-hydroxy-piperidine-1-carboxylic acid tert-butyl ester | 45.0 mmol, 12.3 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@H](CC1)COC(C)=O)O | C13H23NO5
reactant | N,N-diisopropylethyl amine | 180 mmol, 31.4 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | chloromethylmethyl ether | 135 mmol, 11.4 mL | ClCOC | C2H5ClO
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | (±)-cis-4-acetoxymethyl-3-methoxymethoxy-piperidine-1-carboxylic acid tert-butyl ester | 13.3 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@H](CC1)COC(C)=O)OCOC | C15H27NO6
